* C:\Users\pilla\Desktop\Git\4113\EEE4113F-Group13-2024\circuit-schematics\LDR_Circuit.asc
XU1 N003 N001 Vin 0 N002 LM358
R1 Vin N001 22k
V1 Vin 0 5
R2 N001 0 22k
R§LDR N003 0 18k
R3 Vin N003 22k
R4 N002 Out 3.3k
R5 Out 0 22k
M1 Vin VCC 0 0 NMOS
V2 VCC 0 3.3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\pilla\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib lm358.lib
.tran 0.01
.backanno
.end
